US07678815B2
A solution of aminocyanacetic acid ethyl ester (1.00 g, 7.80 mmol) in dichloromethane (15.00 ml) was cooled to 0° C. and treated with pyridine (0.62 g, 7.80 mmol). Methoxy-acetyl chloride (0.85 g, 7.80 mmol) was added dropwise during 15 min. The mixture was stirred for 5 min at 0° C., then warmed to room temperature and stirred for 10 min. The volatiles were evaporated, and the residue was redissolved in dichloromethane and washed twice with water. The organic layer was dried with sodium sulphate and evaporated. The residue was triturated in diisopropyl ether to yield cyano-(2-methoxy-acetylamino)-acetic acid ethyl ester (1.04 g, 66%), MS (ISP): m/e=201.1 (M+H+).

reactant | aminocyanacetic acid ethyl ester | 7.80 mmol, 1.00 g | C(C)OC(C(C#N)N)=O | C5H8N2O2
reactant | pyridine | 7.80 mmol, 0.62 g | N1=CC=CC=C1 | C5H5N
reactant | Methoxy-acetyl chloride | 7.80 mmol, 0.85 g | COCC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 15.00 ml | ClCCl | CH2Cl2
product | cyano-(2-methoxy-acetylamino)-acetic acid ethyl ester | 1.04 g, 66% | C(C)OC(C(NC(COC)=O)C#N)=O | C8H12N2O4
